US05349066
In yet another preferred embodiment, a novel thiosemicarbazide bifunctional compound was formed (FIG. 4). In this embodiment, potassium phthalimide was reacted with 1,4-dibromo-2-butene to form 1-bromo-4-(N-phtalimido)-2butene. This compound was reacted with potassium thioacetate to form 1-(acetylthio)-4-(N-phthalimido)-2-butene which was then reacted with hydrazine and was treated with methoxycarbonylsulfenyl chloride followed by 2-mercaptopyridine to form 1-amino-4-[(2-pyridinyl)dithio]-2-butene hydrochloride. This compound was combined with TEA followed by di-2-pyridyl thionocarbonate, then t-butyl carbazate was added to form the t-boc derivative of N-[4-[(2-pyridinyl)dithio]-2-butenyl]-hydrazinecarbothioamide, compound 12. This compound was dissolved in TFA to form a compound in the form of a gum, which was then reacted with adriamycin hydrochloride and TFA to form the thiosemicarbazone derivative of ADM having a thiosemicarbazone bond at the C-13 position of the ADM (compound 3, FIG. 1) and having a reactive pyridinyldithio moiety.

reactant | hydrazine | NN | H4N2
reactant | methoxycarbonylsulfenyl chloride | COC(=O)SCl | C2H3ClO2S
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | 1-amino-4-[(2-pyridinyl)dithio]-2-butene hydrochloride | Cl.NCC=CCSSC1=NC=CC=C1 | InChI=1S/C9H12N2S2.ClH/c10-6-2-4-8-12-13-9-5-1-3-7-11-9;/h1-5,7H,6,8,10H2;1H
